US04743685
(D) 1-[[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinyl]methyl]-4-(triphenylmethyl)-2,3-piperazinedione
To a solution of N-(triphenylmethyl)piperazine-2,3-dione (4.19 g, 11.77 mmol) in 95 ml of dry dimethylformamide was added 0.35 g (11.77 mmol) of sodium hydride (80% oil). After the hydrogen evolution had ceased, a solution of 2-(chloromethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone (4.0 g, 11.77 mmol) in 25 ml of dry dimethylformamide was added to the thick suspension which then turned into a clear solution. After one hour of stirring at room temperature, precipitation started. After two hours, the crystals were filtered off, washed and dried in vacuo, yielding 5.13 g of the title compound, melting point 165°-168° C.

reactant | N-(triphenylmethyl)piperazine-2,3-dione | 11.77 mmol, 4.19 g | C1(=CC=CC=C1)C(N1C(C(NCC1)=O)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O2
reactant | sodium hydride | 11.77 mmol, 0.35 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-(chloromethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone | 11.77 mmol, 4.0 g | ClCC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C20H18ClNO2
solvent | dimethylformamide | 95 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-[[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinyl]methyl]-4-(triphenylmethyl)-2,3-piperazinedione | 5.13 g | O=C1C=C(N(C=C1OCC1=CC=CC=C1)CC1=CC=CC=C1)CN1C(C(N(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C43H37N3O4
